US05130450
390.5 mg of D-pantolactone was dissolved in 30 ml of a 0.1 N aqueous sodium hydroxide solution and reacted at room temperature for 3 hours to form an aqueous pantoic acid sodium salt solution. Separately, 321 mg of cis-dinitrato-diammine platinum (II) was dissolved in 50 ml of water, and thereto was added the previously prepared aqueous pantoic acid sodium salt solution. After 48-hour reaction at room temperature, water was evaporated away under reduced pressure. Methanol was added to the residue and the produced platinum complex was extracted. Then methanol was removed under reduced pressure to obtain a crude powdery product. This product was again dissolved in methanol and added with acetone, causing reprecipitation. The precipitate was filtered out and dried under reduced pressure to obtain 510 mg of the compound No. 1.

reactant | D-pantolactone | 390.5 mg | CC1(COC(=O)[C@@H]1O)C | C6H10O3
reactant | sodium hydroxide | 0.1 N | [OH-].[Na+]
product | pantoic acid sodium salt | [Na+].C([C@H](O)C(C)(C)CO)(=O)[O-] | InChI=1S/C6H12O4.Na/c1-6(2,3-7)4(8)5(9)10;/h4,7-8H,3H2,1-2H3,(H,9,10);/q;+1/p-1/t4-;/m0./s1
